US05128355
To a stirred solution of 25.2 g of methyl 3-iodobenzoate and 21.0 g of 4-iodotoluene at 180°-190° under nitrogen was added 30.3 g of copper powder portionwise over 1 hour. When approximately one-third of the copper had been added, the reaction initiated and the temperature increased spontaneously to 240°. The mixture was allowed to cool to 210°, then was held at 210° during the addition of the remaining copper and for an additional hour. The mixture was allowed to cool to room temperature and was filtered employing benzene as solvent; the resulting filtrate was concentrated in vacuum to provide the crude product. Column chromatography on silica gel (elution=50-100% benzene/hexane) followed by distillation furnished 7.60 g of methyl 4'-methylbiphenyl-3-carboxylate [bp:114°-115° C. (0.025 torr)] as a colorless oil; NMR (200 MHz, CDCl3): δ 8.27 (br S, 1H); 7.99 (d, 1H); 7.77 (d, 1H); 7.50 (t, 1H); 7.39 (A2B2, 4H); 3.94 (s, 3H); 2.41 (s, 3H).

reactant | methyl 3-iodobenzoate | 25.2 g | IC=1C=C(C(=O)OC)C=CC1 | C8H7IO2
reactant | 4-iodotoluene | 21.0 g | IC1=CC=C(C=C1)C | C7H7I
catalyst | copper | 30.3 g | [Cu] | Cu
product | methyl 4'-methylbiphenyl-3-carboxylate | 7.60 g | CC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)OC | C15H14O2
